US08198456B2
To a solution of 5-iodo-1H-indazole-3-carboxaldehyde (544 mg, 2 mmol) and 1,2-diaminobenzene (216 mg, 2 mmol) in DMF (5 mL) was add 4 Å molecular sieves. The mixture was kept at 60° C. for 2 hr, then the mixture was heated up to 80° C. overnight under air atmosphere (air balloon). The mixture was diluted with EtOAc, washed with water, dried and concentrated. The crude product was purified by flash chromatography to afford 3-(1H-benzimidazol-2-yl)-5-iodo-1H-indazole (500 mg, 69%).

reactant | 5-iodo-1H-indazole-3-carboxaldehyde | 2 mmol, 544 mg | IC=1C=C2C(=NNC2=CC1)C=O | C8H5IN2O
reactant | 1,2-diaminobenzene | 2 mmol, 216 mg | NC1=C(C=CC=C1)N | C6H8N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(1H-benzimidazol-2-yl)-5-iodo-1H-indazole | 500 mg, 69% | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)I | C14H9IN4
